US06716851B2
4-(2-Acetyl-4,5-dimethoxyanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol) and 2-amino-4,5-dimethoxyacetophenone (56 mg, 0.290 mmol) similar to Example 117 and isolated as a tan solid (24 mg, 30%). 1H NMR (CDCl3): 12.49 (s, 1H), 9.65-9.64 (m, 1H), 8.86 (s, 1H), 8.74-8.70 (m, 2H), 7.45-7.41 (m, 1H), 7.35 (s, 1H), 6.99 (s, 1H), 4.12 (s, 3H), 3.95 (s, 3H), 2.68 (s, 3H).

reactant | 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 2-amino-4,5-dimethoxyacetophenone | 0.290 mmol, 56 mg | CC(=O)C1=CC(=C(C=C1N)OC)OC | C10H13NO3
product | 4-(2-Acetyl-4,5-dimethoxyanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | C(C)(=O)C1=C(NC2=NC(=NC(=C2)C(F)(F)F)C=2C=NC=CC2)C=C(C(=C1)OC)OC | C20H17F3N4O3
